US08053457B2
(S)-2-Amino-2-(4-chloro-phenyl)-ethanol
A mixture of L-4-chloro-phenylglycine (1.74 g, 9.37 mmol) and LAH (712 mg, 18.75 mmol) in THF (40 mL) is refluxed for 1.5 h. After completion, the reaction mixture is quenched by Na2SO4.10H2O and the product is isolated by filtration with Celite, washed with THF and dried under reduced pressure to give the title compound as oil; HPLC: AtRet=1.46 min; 1HNMR (DMSO-d6) 7.35 (d, 2H), 7.30 (d, 2H), 4.80 (bs, 1H), 3.85-3.80 (m, 1H), 3.45-3.20 (m, 2H), 1.85 (bs, 2H).

reactant | L-4-chloro-phenylglycine | 9.37 mmol, 1.74 g | C1=CC(=CC=C1[C@@H](C(=O)O)N)Cl | C8H8ClNO2
reactant | LAH | 18.75 mmol, 712 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (S)-2-Amino-2-(4-chloro-phenyl)-ethanol | N[C@H](CO)C1=CC=C(C=C1)Cl | C8H10ClNO
